US05049551
Preparation of 2',3'-bis-O-[N-(2-n-propyl-n-pentanoyl)-glycyl]-5-fluorouridine (1c)
After dissolving 0.62 g of 5'-O-benzyloxycarbonyl-2',3'-bis-O-[N-(2-n-propyl-n-pentanoyl)glycyl]-5-fluorouridine in 25 ml of ethanol, 0.2 g of 5% palladium carbon was added to the solution and the mixture was stirred under hydrogen stream, at room temperature and atmospheric pressure for 50 minutes. After the catalyst was filtered off, the residue obtained by condensing the reaction mixture under reduced pressure was applied to silica gel column chromatography to give 0.36 g (Yield: 68%) of the title compound.

reactant | 5'-O-benzyloxycarbonyl-2',3'-bis-O-[N-(2-n-propyl-n-pentanoyl)glycyl]-5-fluorouridine | 0.62 g | C(C1=CC=CC=C1)OC(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)OC(CNC(C(CCC)CCC)=O)=O)OC(CNC(C(CCC)CCC)=O)=O | C37H51FN4O12
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.2 g | [C].[Pd]
product | 2',3'-bis-O-[N-(2-n-propyl-n-pentanoyl)-glycyl]-5-fluorouridine | 0.36 g, Yield: 68% | C(CC)C(C(=O)NCC(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(CNC(C(CCC)CCC)=O)=O)CO)N1C(=O)NC(=O)C(=C1)F)CCC | C29H45FN4O10
